US08076482B2
Preparation of chiral (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of chiral (2′S, 3S, 4′R)-1-acetyl-6-chloro-2′-(5-chloro-2-methyl-phenyl)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (30 mg, 0.04 mmol) and P2S5 (26 mg, 0.12 mmol) in THF (2 mL) was stirred at room temperature overnight, then diluted with toluene (10 mL). The resultant mixture was concentrated and washed with DCM for two times. The DCM solution was collected and purified by flash column chromtography. The product was then stirred with K2CO3 (20 mg) in MeOH for 15 min, and then partitioned between ethyl acetate and diluted HCl solution. The organic layer was washed with brine, dried over anhydrous Na2SO4 and concentrated to give the title product as white solid (25 mg).

reactant | 1-acetyl-6-chloro-2′-(5-chloro-2-methyl-phenyl)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.04 mmol, 30 mg | C(C)(=O)N1C(C2(C(NC(CC2C2=C(C=CC(=C2)Cl)OC(C(=O)NS(=O)(=O)C)(CC)CC)=O)C2=C(C=CC(=C2)Cl)C)C2=CC=C(C=C12)Cl)=O | C34H34Cl3N3O7S
reactant | P2S5 | 0.12 mmol, 26 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-2′-(5-chloro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 25 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C(=O)NS(=O)(=O)C)(CC)CC)=S)C1=C(C=CC(=C1)Cl)C)=O | C32H32Cl3N3O5S2
